US04971982
15.98 g of 2-chloro-5-phenylpyridine were dissolved in 150 ml of 55% aqueous hydroiodic acid and the solution was heated at reflux for 2 hours. Upon cooling a solid precipitated and this was filtered off and washed with water The solid was partitioned between diethyl ether and 2M sodium hydroxide solution, and the organic phase was dried over sodium sulphate and evaporated to give 15.87 g of 2-iodo-5-phenylpyridine which was used without further purification.

reactant | 2-chloro-5-phenylpyridine | 15.98 g | ClC1=NC=C(C=C1)C1=CC=CC=C1 | C11H8ClN
reactant | hydroiodic acid | 150 ml | I | HI
product | 2-iodo-5-phenylpyridine | 15.87 g | IC1=NC=C(C=C1)C1=CC=CC=C1 | C11H8IN
